US06011044
Preparation of 1-(2-methylphenyl)-4-[(3-hydroxypropyl)amino]-6-trifluoromethoxypyrrolo[3,2-c]quinoline
1-(2-Methylphenyl)-4-chloro-6-trifluoromethoxypyrrolo[3,2-c]quinoline(377 mg, 1.0 mmol) was dissolved in 3-amino-1-propanol(10 ml) in the pressure tube, then reacted at the same condition of Step 3 in the Example 6 to obtain 303 mg of desired compound as solid in 73% of yield.

reactant | 1-(2-Methylphenyl)-4-chloro-6-trifluoromethoxypyrrolo[3,2-c]quinoline | 1.0 mmol, 377 mg | CC1=C(C=CC=C1)N1C=CC=2C(=NC=3C(=CC=CC3C21)OC(F)(F)F)Cl | C19H12ClF3N2O
reactant | 3-amino-1-propanol | 10 ml | NCCCO | C3H9NO
product | 1-(2-methylphenyl)-4-[(3-hydroxypropyl)amino]-6-trifluoromethoxypyrrolo[3,2-c]quinoline | 303 mg | CC1=C(C=CC=C1)N1C=CC=2C(=NC=3C(=CC=CC3C21)OC(F)(F)F)NCCCO | C22H20F3N3O2
